US06699954B2
1/Synthesis of 1-bromo-5,8,11-trioxadodecane:
This compound is prepared in a way similar to that in paragraph 1/ of example 1) by reacting the sodium salt of diethylene glycol monomethyl ether with an excess of 1,4-dibromobutane. Column purification gives a yellow-colored oil.

reactant | sodium | [Na] | Na
reactant | diethylene glycol monomethyl ether | COCCOCCO | C5H12O3
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-bromo-5,8,11-trioxadodecane | BrCCCCOCCOCCOC | C9H19BrO3
